US06235731B1
2) Synthesis of N-methyl-N-(1-tert-butoxycarbonylpiperidin-4-ylmethyl)trifluoroacetamide
Under nitrogen, 0.21 g (5.25 mM) of 60% sodium hydride-liquid paraffin was added to a solution of 1.51 g (4.87 mM) of N-(1-tert-butoxycarbonylpiperidin-4-ylmethyl)trifluoroacetamide in N,N-dimethylformamide (10 ml) at 0° C. and the mixture was stirred at the prevailing temperature for 40 minutes. To this reaction mixture was added 0.5 ml (5.90 mM) of methyl methanesulfonate and the mixture was stirred at room temperature for 112 hours. The mixture was further stirred at 100° C. for 2.5 hours, at the end of which time the reaction was stopped by adding saturated aqueous solution of sodium hydrogen carbonate. The reaction mixture was then extracted with ethyl acetate. The organic layer was washed with saturated aqueous solution of sodium chloride and dried over MgSO4. The crude product thus obtained was purified by column chromatography (ethyl acetate-hexane 40%) to provide the title compound.

reactant | sodium hydride | 5.25 mM, 0.21 g | [H-].[Na+]
reactant | N-(1-tert-butoxycarbonylpiperidin-4-ylmethyl)trifluoroacetamide | 4.87 mM, 1.51 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC(C(F)(F)F)=O | C13H21F3N2O3
reactant | methyl methanesulfonate | 5.90 mM, 0.5 ml | CS(=O)(=O)OC | C2H6O3S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-methyl-N-(1-tert-butoxycarbonylpiperidin-4-ylmethyl)trifluoroacetamide | CN(C(C(F)(F)F)=O)CC1CCN(CC1)C(=O)OC(C)(C)C | C14H23F3N2O3
